US09260448B2
Methyl 3-amino-4-phenylthiophene-2-carboxylate
3-Methoxy-2-phenylacrylonitrile (17.9 g, 112.5 mmol) was dissolved in NaOMe (5 M in MeOH, 31.5 ml, 157.5 mmol), and then methyl thioglycolate (16 ml, 180.0 mmol) was added thereto. The mixture was heated with stirring at 65° C. for 24 hr. After the completion of the reaction was confirmed by thin layer chromatography (TLC), the reaction mixture was cooled to room temperature and filtered through Celite. The filtrate was washed with distilled water and extracted with dichloromethane. The organic layer was dried over anhydrous MgSO4 and filtered. The filtrate was distilled under reduced pressure, and the concentrate was purified by silica gel column chromatography (EtOAc:Hex=1:5) to give 5.1 g (21.9 mmol, 26% yield in three steps) of the title compound.

reactant | 3-Methoxy-2-phenylacrylonitrile | 112.5 mmol, 17.9 g | COC=C(C#N)C1=CC=CC=C1 | C10H9NO
reactant | NaOMe | 157.5 mmol, 5 M, 31.5 ml | C[O-].[Na+]
reactant | methyl thioglycolate | 180.0 mmol, 16 ml | C(CS)(=O)OC | C3H6O2S
product | Methyl 3-amino-4-phenylthiophene-2-carboxylate | 26% yield | NC1=C(SC=C1C1=CC=CC=C1)C(=O)OC | C12H11NO2S
